US05457094
6.1 g (0.07 mol) of n-butylmethylamine are stirred with 9.3 g (0.07 mol) of N,N-dimethylacetamide dimethyl acetal for 24 hours under reflux at a bath temperature of 130° C. Subsequent vacuum distillation gives N-butyl-N-methylacetamide dimethyl acetal, bp 72°-75° C./31 mbar.

reactant | n-butylmethylamine | 0.07 mol, 6.1 g | C(CCC)NC | C5H13N
reactant | N,N-dimethylacetamide dimethyl acetal | 0.07 mol, 9.3 g | COC(C)(N(C)C)OC | C6H15NO2
product | N-butyl-N-methylacetamide dimethyl acetal | COC(C)(N(C)CCCC)OC | C9H21NO2
